US07625908B2
4-({5-[(1R)-2-Amino-1-methylethoxy]quinazolin-4-yl}amino)-2-chlorophenol was reacted with methoxyacetic acid using an analogous process to that described in Example 3 (preparation of starting materials) to give N-[(2R)-2-({4-[3-chloro-4-hydroxyanilino]quinazolin-5-yl}oxy)propyl]-2-methoxyacetamide in 83% yield; NMR spectrum (DMSO-d6) 1.4 (d, 3H), 3.1 (s, 3H), 3.35-3.45 (m, 1H), 3.72-3.85 (m, 3H), 4.95-5.05 (m, 1H), 7.05 (d, 1H), 7.31 (d, 1H), 7.4 (dd, 1H), 7.48 (d, 1H), 7.81 (m, 1H), 7.95 (t, 1H), 8.25 (t, 1H), 8.8 (s, 1H), 10.39 (s, 1H), 10.74 (s, 1H) Mass spectrum MH+ 417.

reactant | 4-({5-[(1R)-2-Amino-1-methylethoxy]quinazolin-4-yl}amino)-2-chlorophenol | NC[C@H](OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)Cl)C | C17H17ClN4O2
reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
product | N-[(2R)-2-({4-[3-chloro-4-hydroxyanilino]quinazolin-5-yl}oxy)propyl]-2-methoxyacetamide | 83% yield | ClC=1C=C(NC2=NC=NC3=CC=CC(=C23)O[C@@H](CNC(COC)=O)C)C=CC1O | C20H21ClN4O4
